US07897607B2
2-Chloro-5-methoxy-3-methylquinazolin-4(3H)-one
A mixture of 5-methoxy-3-methyl-1H-quinazoline-2,4-dione (165 mg, 0.800 mmol) and N,N-diisopropylethylamine (0.307 ml, 1.76 mmol) in phosphorus oxychloride (2.2 ml, 24.0 mmol) was refluxed for 18 h with stirring and concentrated to dryness under vacuum. The residue was diluted with water. The aqueous solution was extracted with dichloromethane. The extract was washed with water, dried over magnesium sulfate and concentrated under vacuum to afford 179 mg (99%) of the title compound. The residue was used for the next reaction without further purification.

reactant | 5-methoxy-3-methyl-1H-quinazoline-2,4-dione | 0.800 mmol, 165 mg | COC1=C2C(N(C(NC2=CC=C1)=O)C)=O | C10H10N2O3
reactant | N,N-diisopropylethylamine | 1.76 mmol, 0.307 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phosphorus oxychloride | 24.0 mmol, 2.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-5-methoxy-3-methylquinazolin-4(3H)-one | 179 mg, 99% | ClC1=NC2=CC=CC(=C2C(N1C)=O)OC | C10H9ClN2O2
